US07897600B2
C. (4-Methoxybenzyl)hydrazine dihydrochloride
To a solution of 4 N hydrogen chloride in dioxane (2000 mL, 8.00 mol HCl), add tert-butyl 2-(4-methoxybenzyl)hydrazinecarboxylate (324 g, 1.09 mol) dissolved in a minimal amount of dioxane, slowly over a period of 1 h. A precipitate gradually forms. Allow the solution to stir 16 h at 20±5° C. Collect the solids by filtration. Slurry the solids in heptane (2000 mL) and isolate the solids by filtration. Dry the solids using a nitrogen press to give the title compound (242.3 g, 1.08 mol, 98%). 1H NMR (400 MHz, DMSO-d6) δ 8.2-9.0 (bs, 5H), 7.3-7.4 (d, 2H), 6.8-7.0 (d, 2H), 4.0 (s, 2H), 3.7 (s, 3H).

reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | tert-butyl 2-(4-methoxybenzyl)hydrazinecarboxylate | 1.09 mol, 324 g | COC1=CC=C(CNNC(=O)OC(C)(C)C)C=C1 | C13H20N2O3
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 8.00 mol, 2000 mL | O1CCOCC1 | C4H8O2
product | (4-Methoxybenzyl)hydrazine dihydrochloride | 1.08 mol, 242.3 g, 98% | Cl.Cl.COC1=CC=C(CNN)C=C1 | InChI=1S/C8H12N2O.2ClH/c1-11-8-4-2-7(3-5-8)6-10-9;;/h2-5,10H,6,9H2,1H3;2*1H
